Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Percocet / Ambien / Aspirin
 
Attending: ___.
 
Chief Complaint:
L carotid stenosis
 
Major Surgical or Invasive Procedure:
L CEA ___
PEG placement ___

 
History of Present Illness:
This is a ___ y/o gentleman with a significant PVD history who 
presents with a new stenosis of his L carotid artery after a 
prior L CEA. He presents for elective redo L CEA.
 
Past Medical History:
PMH: DM2 dilated cardiomyopathy - EF 32%, MI, Prior CVA (with 
deficits reported as L hand sensory deficits) Reflux disease, 

PSH: s/p CABG, s/p R TMA amputation, R ICA complete occlusion, L 
ICA 90% occlusion w/ prior L CEA, Appendectomy, Tonsillectomy, 
___: aortogram and ___ angiography

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
T 98  HR 58  BP 126/60  RR 18  98% RA

GEN: NAD, AAOx3
NEURO: no focal deficits
CHEST: CTA B/L
HEART: RRR, S1/S2
ABD: soft, NT , ND
___: warm, 1+ edema, R TMA with heel ulcer  
 
Pertinent Results:
___

138  105  25     AGap=10 
------------< 127
4.5  28  0.7  

Ca: 8.1 Mg: 2.0 P: 3.7
 
      10.9 
12.9   ><  298 
      32.6  

N:76.1 L:12.9 M:6.9 E:3.4 Bas:0.7 
 

 
Brief Hospital Course:
The patient was admitted to the vascular surgey service on 
___. He underwent a L CEA. (Please see operative note for 
further details.) Unfortunately, the patient developed a Right 
sided stroke after the procedure. A CT perfusion scan was 
performed that showed complete infarction in the territory of 
the L ACA. The patient was unable to move his right side upon 
leaving the operating room. Throughout his hospital stay, the 
patient was unable to speak or move his right side. He would 
intermittently follow commands using his Left side. He could 
understand what was being told to him, but could not respond. On 
POD2, patient began to have RUE convulsions. Neurology was 
consulted and determined that these were focal partial seizures. 
The patient was started on keppra, and these symptoms resolved 
the next day. The patient was started on TPN for nutrition after 
he failed speech/swallow trial. A PEG tube was placed on ___ 
___. Physical therapy worked with the patient, and 
he slowly improved throughout his stay. He was making more 
audible sounds, and was following commands better. He was still 
unable to speak or move the right side. Tube feeds were started 
prior to discharge. Throughout his stay, the patient remained 
hemodynamically stable. His blood sugars were elevated upon 
starting TPN. Due to his inability to take po, the patient's 
oral hypoglycemics could not be administered. ___ was 
consulted and developed an insulin regimen that were able to 
keep the patient's blood sugars under good control. Once the PEG 
was placed, patient was restarted on po meds and was also 
started on tube feeds. Patient will be discharged to rehab until 
his neurologic status improves.
 
Medications on Admission:
Glyburide, Metformin, Lisinopril, Omeprazole, Daptomycin (3 wk 
course)
 
Discharge Medications:
1. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) 5000U 
Injection TID (3 times a day).  
2. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
3. calcipotriene 0.005 % Cream Sig: One (1) Appl Topical BID (2 
times a day) as needed for psoriasis.  
4. insulin glargine 100 unit/mL Solution Sig: ___ (35) U 
Subcutaneous at bedtime.  
5. Protonix 40 mg Susp,Delayed Release for Recon Sig: Forty (40) 
mg PO once a day.  
6. insulin regular human 100 unit/mL Solution Sig: sliding scale 
 Injection every six (6) hours: please see attached sliding 
scale.  
7. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
8. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. levetiracetam 500 mg/5 mL (5 mL) Solution Sig: Ten (10) mL 
PO BID (2 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p L CEA complicated by L AKA CVA
s/p PEG placement

 
Discharge Condition:
Discharge Condition: Stable
Mental status: awake, moves LUE and neck, follows simple 
commands, unable to formulate words

 
Discharge Instructions:
Mr. ___ is POD 13 from a left carotid endarerectomy. His 
postoperative cause was complicated by a L ACA CVA. He has 
regained movement of his LUE and can grunt sounds. He is on 
Keppra for early posoperative seizures which have been 
stabilized. He is POD2 from a PEG placement and he is advancing 
his diet with no problem.

Mr. ___ will need aggressive post-CVA physical therapy.
 
Followup Instructions:
___